US09127003B2
Intermediate 28: (R)-tert-Butyl(1-(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate
To a mixture of (R)-tert-butyl(1-(4-(methylamino)-3-nitrobenzoyl)piperidin-3-yl)carbamate (2.1 g, 5.55 mmol) and 1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde (1.3 g, 5.70 mmol) in ethanol (55 ml) was added portionwise a solution of sodium hydrosulfite (3.41 g, 16.65 mmol) in water (25 ml). The mixture was flushed with nitrogen and heated at 90° C. overnight for 17 hours. The reaction mixture was allowed to cool to room temperature and the solvent was evaporated in vacuo. DCM was added to the residue and the heterogeneous solution was dried over sodium sulfate. The solid was filtered off and the filtrate was concentrated under vacuo. The residue was loaded in dichloromethane and purified by SP4 SNAP on 2 silica (Si) 100 g columns using an initial gradient of 25-80% (15 CVs), followed by 80-100% (10 CVs) ethyl acetate/cyclohexane. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a pale yellow solid (1.934 g).

reactant | (R)-tert-butyl(1-(4-(methylamino)-3-nitrobenzoyl)piperidin-3-yl)carbamate | 5.55 mmol, 2.1 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O)=O | C18H26N4O5
reactant | 1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | 5.70 mmol, 1.3 g | FC(CN1C(=CC=2C1=NC=CC2)C=O)(F)F | C10H7F3N2O
reactant | sodium hydrosulfite | 16.65 mmol, 3.41 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 55 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | (R)-tert-Butyl(1-(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 1.934 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C=C1)=O | C28H31F3N6O3
